US04960787
A mixture of 38.0 g of cycloheptylamine and 50 ml of 2,5-dimethoxytetrahydrofuran-3-carboxaldehyde in 300 ml of glacial acetic acid is stirred under reflux for 3 hours. The solution is evaporated to dryness at 60° under reduced pressure. The residue is then dissolved in a 1:1 mixture of ether and hexane, the solution is treated with charcoal and evaporated to dryness to give 1-cycloheptyl-1H-pyrrole-3-carboxaldehyde as an oil. The aldehyde (30 g) is then added dropwise to a mixture of 35 ml of triethyl phosphonoacetate in 1 liter of toluene to which had been added 9.5 g of sodium hydride. The reaction mixture is stirred in an ice bath for 2 hours and then at room temperature overnight, washed first with ice cold dilute hydrochloric acid, then with brine, dried over magnesium sulfate, treated with charcoal and evaporated to dryness to yield ethyl (E)-3-(1-cycloheptyl-1H-pyrrol-3-yl)-2-propenoate.

reactant | cycloheptylamine | 38.0 g | C1(CCCCCC1)N | C7H15N
reactant | 2,5-dimethoxytetrahydrofuran-3-carboxaldehyde | 50 ml | COC1OC(CC1C=O)OC | C7H12O4
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 1-cycloheptyl-1H-pyrrole-3-carboxaldehyde | C1(CCCCCC1)N1C=C(C=C1)C=O | C12H17NO
